US03980788
A solution of 9.92 g. of 9-acetoxyxanthene and 7.2 g. of 3-diethylaminopiperidine in 200 ml. of benzene is refluxed for 18 hours. Working up by the procedure of Example 1 gives 1-(9-xanthenyl)-3-diethylaminopiperidine.

reactant | 9-acetoxyxanthene | C(C)(=O)OC1C2=CC=CC=C2OC=2C=CC=CC12 | C15H12O3
reactant | 3-diethylaminopiperidine | C(C)N(C1CNCCC1)CC | C9H20N2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-(9-xanthenyl)-3-diethylaminopiperidine | C1=CC=CC=2OC3=CC=CC=C3C(C12)N1CC(CCC1)N(CC)CC | C22H28N2O
